US04946842
6-[4-(N3 -Benzyl-N2 -cyanoguanidino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
A stirred mixture of 6-(4-(N-cyano-S-methylisothioureido)phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone (2 g), benzylamine (2 ml) and pyridine (100 ml) was heated under reflux for 2 hours. The residue after evaporation was triturated with ethanol and the resultant solid (1.6 g) was purified by flash chromatography (silica gel, chloroform:methanol mixtures) to give the title compound (0.85 g), m.p. 228°-229° C.

reactant | 6-(4-(N-cyano-S-methylisothioureido)phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 2 g | C(#N)N(C(SC)=N)C1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C14H15N5OS
reactant | benzylamine | 2 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 6-[4-(N3 -Benzyl-N2 -cyanoguanidino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.85 g | C(C1=CC=CC=C1)NC(NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)=NC#N | C20H20N6O
